US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-fluoroethoxy)ethyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound AH)
To a cooled (−78° C.) solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-hydroxyethoxy)ethyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (28.7 mg, 0.044 mmol) in CH2Cl2 (1 mL) was added DAST (0.04 mL, 0.3 mmol) dropwise. After being stirred for 2.5 h at the same temperature, the reaction was quenched by addition of saturated Na2CO3. The mixture was extracted 3× with CH2Cl2, and the combined organic layers were washed 1× with brine and dried over Na2SO4. Concentration gave the crude product, which was used for the next step without further purification. To a solution of the crude product in THF:MeOH:H2O (2:3:1, 0.8 mL), was added LiOH—H2O (3.7 mg, 0.088 mmol). After being stirred overnight at room temperature, the reaction mixture was concentrated. The residue was dissolved in EtOAc, washed 1× with brine, 1× with brine containing 1% NaHSO4 and 1× with brine prior to drying over Na2SO4. Concentration gave the crude product, which was purified by preparative HPLC to yield 5.7 mg of title compound. 1H-NMR (CD3OD, 300 MHz) δ 7.38 (s, 1H), 7.26 (s, 1H), 7.08 (s, 4H), 4.59-4.56 (m, 1H), 4.46-4.40 (m, 2H), 4.05 (d, J=15.1 Hz, 1H), 3.99 (d, J=15.1 Hz, 1H), 3.84 (d, J=12.0 Hz, 1H), 3.75-3.61 (m, 5H), 3.48-3.36 (m, 4H), 3.13-3.03 (m, 1H), 2.96-2.87 (m, 1H), 2.57 (q, J=7.6 Hz, 2H), 1.18 (t, J=7.6 Hz, 3H); MS ESI (m/z) 483 (M+1)+, calc. 482.

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-hydroxyethoxy)ethyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.044 mmol, 28.7 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)CCOCCO)COC(C)=O | C33H41ClO11
reactant | DAST | 0.3 mmol, 0.04 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | LiOH—H2O | 0.088 mmol, 3.7 mg | O[Li].O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | THF MeOH H2O | 0.8 mL | C1CCOC1.CO.O
product | (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-fluoroethoxy)ethyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 5.7 mg | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CCOCCF | C25H32ClFO6
